* Z:\mnt\design.r\spice\examples\1715.asc
V1 +V 0 5
V2 N001 0 PULSE(0 2 0 .5u .5u 0 1u)
V3 N003 0 1
XU1 N003 N001 +V 0 +V 0 N002 LT1715
.tran 3u
.lib LTC1.lib
.backanno
.end
